US07932272B2
Quinoline-6-carboxylic acid 4-phenylethynyl-benzylamide
N,N-diisopropylethylamine (0.31 mL, 1.8 mmol) was added to a mixture of the resulting quinoline-6-carboxylic acid 4-bromobenzylamide (200 mg, 0.59 mmol) ethynylbenzene(0.077 mL, 0.70 mmol), copper(I)iodide (catalytic amount), tetrakis(triphenylphosphine)palladium(0) (68 mg, 0.059 mmol) and N-methylpyrrolidinone (4 mL), and the solution was stirred at 100° C. for 30 minutes, and at 120° C. for 50 minutes. After cooling, water, ethyl acetate, tetrahydrofuran and 29% aqueous ammonia solution were added to the reaction mixture for extraction, the organic layer was washed with brine, then, the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:4), then, the resulting crudely purified product was washed with diethyl ether to obtain the title compound (50 mg, 0.14 mmol, 24%) as a white solid.

reactant | N,N-diisopropylethylamine | 1.8 mmol, 0.31 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | quinoline-6-carboxylic acid 4-bromobenzylamide | 0.59 mmol, 0.077 mL, 200 mg | BrC1=CC=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=C1 | C17H13BrN2O
reactant | N-methylpyrrolidinone | 4 mL | CN1C(CCC1)=O | C5H9NO
reactant | ammonia | N | H3N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | copper(I)iodide | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.059 mmol, 68 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Quinoline-6-carboxylic acid 4-phenylethynyl-benzylamide | 0.14 mmol, 50 mg, 24% | C1(=CC=CC=C1)C#CC1=CC=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=C1 | C25H18N2O
